US05525742
A stirred solution of 1-(3-fluorophenyl)cyclobutanecarbamic acid, benzyl ester (8.25 g, 27.6 mmol) and ammonium formate (5.04 g, 79.9 mmol) in methanol (120 mL) under N2 is cooled to 15° C. Ten percent palladium on carbon (1.5 g) is added portionwise over 10 minutes. The reaction mixture is stirred at 15° C. for 45 minutes, then filtered through a small pad of celite. The filter cake is washed with methanol. The filtrate is concentrated. The resulting white solid is partitioned between dichloromethane (150 mL) and saturated aqueous bicarbonate (150 mL). The phases are separated and the aqueous phase extracted with dichloromethane (3×75 mL). The combined organics are washed with saturated aqueous bicarbonate (1×100 mL), water (1×100 mL) and brine (1×100 mL), dried (MgSO4), filtered and concentrated. The organic residue is purified by flash chromatography using 2.5% methanol (saturated with ammonia) in dichloromethane as the eluent to afford 3.77 g of 1-(3-fluorophenyl)cyclobutanamine. This product is the amine used in Step B-2. 1H NMR (CDCl3) δ7.32 (m, 1 H), 7.19 (m, 1 H), 7.09 (m, 1 H), 6.94 (m, 1 H), 2.54 (m, 2 H), 2.12 (m, 3 H), 1.80 (m, 1 H), 1.70 (s, 2 H); 13C NMR (CDCl3) δ164.6, 161.3, 151.99, 151.90, 129.9, 129.8, 120.54, 120.50, 113.3, 113.0, 112.2, 111.9, 58.8, 36.9, 14.1.

reactant | 1-(3-fluorophenyl)cyclobutanecarbamic acid, benzyl ester | 27.6 mmol, 8.25 g | FC=1C=C(C=CC1)C1(CCC1)NC(=O)OCC1=CC=CC=C1 | C18H18FNO2
reactant | ammonium formate | 79.9 mmol, 5.04 g | C(=O)[O-].[NH4+]
solvent | methanol | 120 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 1-(3-fluorophenyl)cyclobutanamine | 3.77 g | FC=1C=C(C=CC1)C1(CCC1)N | C10H12FN
